US04801708
A two-phase mixture of 35.1 g (0.15 mole) of 4-amino-3-methylthio-6-phenyl-4H-1,2,4-triazin-5-one, 24.4 ml (0.375 mole) of methyl iodide, 5 g of tetrabutylammonium bromide, 200 ml of toluene and 60 ml of a 50% solution of sodium hydroxide is efficiently stirred for 2 hours, the temperature rising from 20° to 40° C. The organic phase is separated and filtered over silica gel. Evaporation of the filtrate yields 25.1 g (67.5% of theory) of 4-methylamino-3-methylthio-6-phenyl-4H-1,2,4-triazin-5-one which melts at 119°-120° C.

reactant | 4-amino-3-methylthio-6-phenyl-4H-1,2,4-triazin-5-one | 0.15 mole, 35.1 g | NN1C(=NN=C(C1=O)C1=CC=CC=C1)SC | C10H10N4OS
reactant | methyl iodide | 0.375 mole, 24.4 ml | CI | CH3I
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methylamino-3-methylthio-6-phenyl-4H-1,2,4-triazin-5-one | 25.1 g, 67.5% | CNN1C(=NN=C(C1=O)C1=CC=CC=C1)SC | C11H12N4OS
